US05278153
A(1). 5-Iodo-2-thiophenecarboxylic acid
To a stirred solution of 10.9 mL (78.0 mmol) of freshly distilled diisopropylamine in 150 mL of THF under argon at -78° C. was added 48.7 mL (78.0 mmol) of 1.6 M n-BuLi in hexanes to give a pale yellow solution which was allowed to stir at -78° C. for 10 min when 5.0 g (39.0 mmol) of 2-thiophenecarboxylic acid in 31 mL of THF was added dropwise over 10 min to give a grey-white suspension. The metallation was allowed to proceed for 30 min when 8.77 g (39.0 mmol) of N-iodosuccinimide in 25 mL of THF was added very rapidly to give an orange-yellow solution which was allowed to gradually warm to 0° C. After 0.5 h at 0° C., the brown-yellow mixture was quenched with water, diluted with ether and made acidic by the addition of solid citric acid to give a very dark brown-orange solution. The organic layer was separated and washed with water, saturated NaHSO3, brine, dried over MgSO4 and evaporated to provide 9.5 g (96%) of title acid as a brown-yellow solid which was used directly in the following reaction.

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 78.0 mmol, 1.6 M, 48.7 mL | [Li]CCCC
reactant | 2-thiophenecarboxylic acid | 39.0 mmol, 5.0 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | N-iodosuccinimide | 39.0 mmol, 8.77 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 31 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 5-Iodo-2-thiophenecarboxylic acid | IC1=CC=C(S1)C(=O)O | C5H3IO2S
